US04117498
This example illustrates the preparation, by manual mixing of the ingredients followed by spray-drying, of a ferromagnetic toner containing a blue disperse dye, magnetic components and an aqueous alkali-soluble resin, and the application thereof to both paper and polyester. A magnetic toner was prepared from 32.7% of carbonyl iron, 32.7% of Fe3O4, 1.8% of C.I. Disperse Blue 56, 5.5% of ligninsulfonate dispersant and 27.3% of a polyvinyl acetate copolymer resin. The carbonyl iron, used as the soft magnetic material and commercially available under the trade name "Carbonyl Iron" GS-6, is substantially pure iron powder produced by the pyrolysis of iron carbonyl. A suitable Fe3O4 is sold under the trade name "Mapico" Black Iron Oxide and the polyvinyl acetate copolymer resin, under the trade name "Gelva" C5-VIOM. "Gelva" C5-VIOM is an aqueous alkali-soluble copolymer of vinyl acetate and a monomer containing the requisite number of carboxy groups and has a softening point of 123° C.

reactant | carbonyl iron | C(=O)=[Fe]
reactant | iron | [Fe] | Fe
product | iron carbonyl | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Fe] | InChI=1S/5CO.Fe/c5*1-2;
